US07427613B2
(2-Chloro-3-trifluoromethylbenzyl)cyclopropylamine
Synthesized according to typical procedure J from 2-chloro-3-trifluoromethylbenzaldehyde and cyclopropylamine.

reactant | 2-chloro-3-trifluoromethylbenzaldehyde | ClC1=C(C=O)C=CC=C1C(F)(F)F | C8H4ClF3O
reactant | cyclopropylamine | C1(CC1)N | C3H7N
product | (2-Chloro-3-trifluoromethylbenzyl)cyclopropylamine | ClC1=C(CNC2CC2)C=CC=C1C(F)(F)F | C11H11ClF3N
